US07507734B2
b) 3-Methyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-indole-1-carboxylic acid tert-butyl ester
To a solution of 462 mg 3-Methyl-indole-1-carboxylic acid tert-butyl ester in 2.5 ml anhydrous tetrahydrofuran at −78° C. under argon is added 1.2 ml of a 2M LDA solution in THF/hexane and stirred at 0° C. for 30 min to complete the deprotonation. The reaction mixture is cooled to −78° C., 0.6 ml 2-Isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane are added, and stirred at 0° C. for 60 min. The reaction is quenched by the addition of 2 ml MeOH/water (1:1), diluted into water and extracted with ethylacetate. After evaporation of the solvent and purification on silica gel, 385 mg of 3-Methyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-indole-1-carb-oxylic acid tert-butyl ester are obtained.

reactant | 3-Methyl-indole-1-carboxylic acid tert-butyl ester | 462 mg | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C | C14H17NO2
reactant | LDA | 2M | [Li+].CC(C)[N-]C(C)C
reactant | 2-Isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.6 ml | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | THF hexane | C1CCOC1.CCCCCC
product | 3-Methyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=C(C2=CC=CC=C12)C)B1OC(C(O1)(C)C)(C)C | C20H28BNO4
